US04925838
A mixture of (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)carbonylpyrrolidine (30 g), 10% palladium on carbon (10 g), methanol (300 ml) and tetrahydrofuran (150 ml) was stirred for 5 hours under atmospheric pressure of hydrogen at ambient temperature. After the catalyst was filtered off, the filtrate was evaporated in vacuo to give a residue. The residue was chromatographed on silica gel (250 g) eluting with a mixture of chloroform and methanol (9:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-4-methanesulfonyloxy-2-(2-oxoimidazolidin-1-yl)carbonylpyrrolidine (14.92 g).

reactant | (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)carbonylpyrrolidine | 30 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1C(NCC1)=O | C17H20N4O9S
reactant | methanol | 300 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 10 g | [Pd] | Pd
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (2S,4R)-4-methanesulfonyloxy-2-(2-oxoimidazolidin-1-yl)carbonylpyrrolidine | 14.92 g | CS(=O)(=O)O[C@@H]1C[C@H](NC1)C(=O)N1C(NCC1)=O | C9H15N3O5S
